* Xyce Common Source Circuit

.lib "../../Models/libs.tech/Xyce/sky130.lib.spice" tt

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_01v8 W = 7.0 L = 4.0
R1 d vdd 1000

V1 g 0 DC 1 AC 1 SIN(0 1 1k)
VDD vdd 0 1.8


*****************
** Analysic
*****************
.DC v1 0 1.8 0.1
.print DC FILE=./xyce_results/sky130_fd_pr__nfet_01v8_dc_W_7.0_L_4.0_tt_xyce.csv FORMAT=CSV {-i(vdd)}

.end
